US04198418
8.5 g of thionyl chloride are added dropwise over a 10 minutes span to a stirring mixture of 13.0 g of 2-(4-fluorophenoxy)benzyl alcohol in 80 ml of benzene at ambient temperature. After total addition, the reaction mixture is stirred for 16 hours before being carefully poured onto 350 ml of crushed ice containing 8 ml of sodium bicarbonate. The mixture is stirred until the ice melts. The layers separate and the benzene layer is successively washed twice with 40 ml portions of a half saturated sodium bicarbonate solution, washed twice with 40 ml portions of water, washed once with a 25 ml portion of a saturated sodium chloride solution, dried and rotary evaporated to provide a clear liquid. The liquid is distilled at 106°-109° C. and 0.16 mm to provide a clear colorless liquid of 2-(4-fluorophenoxy)benzyl chloride.

reactant | thionyl chloride | 8.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-fluorophenoxy)benzyl alcohol | 13.0 g | FC1=CC=C(OC2=C(CO)C=CC=C2)C=C1 | C13H11FO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-fluorophenoxy)benzyl chloride | FC1=CC=C(OC2=C(CCl)C=CC=C2)C=C1 | C13H10ClFO
